US05089504
A solution of 3-butyryl-4-chloro-8-(4-methoxybenzo yloxymethyl)quinoline (2.56 g, 6.4 mmol) and 4-amino-3-methylphenol (1.18 g, 9.6 mmol) in 1,4-dioxan (30 ml) was heated at reflux for 2 hours, then evaporated. Chromatography (silica gel, 1% methanol in dichloromethane) and recyrstallization from ethanol gave 3-butyryl-4-(4-hydroxy-2-methylphenylamino)-8-(4-methoxybenzoyloxymethyl)-quinoline, (2.36 g, 76%), m.p. 171°-175°.

reactant | 3-butyryl-4-chloro-8-(4-methoxybenzo yloxymethyl)quinoline | 6.4 mmol, 2.56 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)COC(C1=CC=C(C=C1)OC)=O | C22H20ClNO4
reactant | 4-amino-3-methylphenol | 9.6 mmol, 1.18 g | NC1=C(C=C(C=C1)O)C | C7H9NO
solvent | 1,4-dioxan | 30 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(4-hydroxy-2-methylphenylamino)-8-(4-methoxybenzoyloxymethyl)-quinoline | 2.36 g, 76% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)O)C)COC(C1=CC=C(C=C1)OC)=O | C29H28N2O5
